US09371319B2
Preparation 155 2-Methoxy-4-(1-methyl-1H-pyrazol-4-yl)aniline
A solution of 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (5 g, 24.03 mmol), 4-bromo-1-methyl-1H-pyrazole (3.53 g, 17.47 mmol), Pd(dppf)Cl2.DCM (0.38 g, 0.465 mmol) and 2M sodium carbonate (20 ml0 in THF (60 ml) was stirred and heated to 60° C. for 24 hours. The reaction was diluted with ethyl acetate and brine. The organic solution was collected, dried (MgSO4) and concentrated in vacuum. The residue was purified using Biotage silica gel column chromatography eluting with a gradient of 0 to 70% ethyl acetate in cyclohexane to afford the title compound as a white powder (2.5 g, 70%). 1H NMR (500 MHz, CDCl3) δ 3.8 (s, br, 2H), 3.9 (s, 3H), 3.94 (s, 3H), 6.71 (d, J=7.9 Hz, 1H), 6.9 (m, 2H), 7.52 (s, 1H), 7.68 (s, 1H).

reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 24.03 mmol, 5 g | COC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
reactant | 4-bromo-1-methyl-1H-pyrazole | 17.47 mmol, 3.53 g | BrC=1C=NN(C1)C | C4H5BrN2
reactant | DCM | 0.465 mmol, 0.38 g | C(Cl)Cl | CH2Cl2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Methoxy-4-(1-methyl-1H-pyrazol-4-yl)aniline | 2.5 g, 70% | COC1=C(N)C=CC(=C1)C=1C=NN(C1)C | C11H13N3O
